US07842945B2
56.3 g (0.24 mol) of 1,4-dibromobenzene, 31.3 g (0.18 mol) of carbazole, 4.6 g (0.024 mol) of copper iodide, 66.3 g (0.48 mol) of potassium carbonate, and 2.1 g (0.008 mol) of 18-crown-6-ether were put into a 300 mL three-neck flask, and the atmosphere of the flask was substituted with nitrogen. Thereafter, 8 mL of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (abbreviation: DMPU) was added, and then the mixture was stirred for 6 hours at 180° C. After the reaction mixture was cooled to room temperature, the precipitate was removed by suction filtration. The filtrate was washed with a diluted hydrochloric acid, a saturated sodium bicarbonate aqueous solution, and then brine, and dried with magnesium sulfate. After drying, the mixture was filtered, and the filtrate was concentrated to yield an oil which was purified by silica gel column chromatography (hexane:ethyl acetate=9:1). The resulting solid was recrystallized with chloroform and hexane, obtaining 20.7 g of N-(4-bromophenyl)carbazole as a light brown plate-like crystal in 35% yield. By the nuclear magnetic resonance measurement (NMR), it was confirmed that this compound was N-(4-bromophenyl)carbazole.

reactant | 1,4-dibromobenzene | 0.24 mol, 56.3 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | carbazole | 0.18 mol, 31.3 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | potassium carbonate | 0.48 mol, 66.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6-ether | 0.008 mol, 2.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
catalyst | copper iodide | 0.024 mol, 4.6 g | [Cu](I)I
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 8 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | N-(4-bromophenyl)carbazole | 20.7 g, 35% yield | BrC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H12BrN
